US04237129
3-(3-Acetylthio-2-methylpropanoyl)-2-thiazolidinecarboxylic acid methyl ester (2.9 g.) is dissolved in methanol (30 ml.) and N sodium hydroxide (30 ml.) is added. The reaction mixture is stirred at room temperature, aliquots are withdrawn every hour and checked by paper electrophoresis for the hydrolysis of the methyl ester. When this hydrolysis is completed (ca. three hours), the reaction mixture is neutralized, concentrated in vacuo to eliminate methanol, acidified with concentrated hydrochloric acid and extracted with ethyl acetate. The organic layer is dried and concentrated to dryness to yield 3-(3-mercapto-2-methylpropanoyl)-2-thiazolidinecarboxylic acid.

reactant | 3-(3-Acetylthio-2-methylpropanoyl)-2-thiazolidinecarboxylic acid methyl ester | 2.9 g | COC(=O)C1SCCN1C(C(CSC(C)=O)C)=O | C11H17NO4S2
reactant | sodium hydroxide | 30 ml | [OH-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | 3-(3-mercapto-2-methylpropanoyl)-2-thiazolidinecarboxylic acid | SCC(C(=O)N1C(SCC1)C(=O)O)C | C8H13NO3S2
